US06599925B2
1-[5-Chloro-2-(6-hydroxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one
Following the procedure described in Step 3 of Example 1,1-[5-chloro-2-(6-hydroxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one was prepared 1-[5-chloro-2-(6-methoxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one (5.6 g, 14.25 mmol), and boron tribromide (1M solution, 45 mL, 45 mmol) in methylene chloride (200 mL). After work-up, stirring of the solid residue with methanol and filtering afforded the title compound as a solid. (3.2 g), A sample was dissolved in chloroform and filtered through a plug of celite. The solvent was evaporated and the residue was crystallized from methanol to give white crystals, mp 156-157° C. Mass spectrum (+APCl, [M+H]+) m/z 379. 1HNMR (400 MHz, DMSO-d6): δ10.15 (br s,1H), 8.29 (d, 1H, J=1.2 Hz), 8.01 (d, 1H, J=2.2 Hz), 7.93 (d, 1H, J=8.8 Hz), 7.86 (d, 1H, J=8.6 Hz), 7.77-7.72 (m, 2H), 7.46 (dd, 1H, J=8.8, 2.2 Hz), 7.22 (d, 1H, J=2.2 Hz), 7.18 (dd, 1H, J=8.8, 2.4 Hz), 2.69 (t, 2H, J=7.3 Hz), 1.55-1.47 (m, 2H), 1.15-1.05 (m, 2H), and 0.68 ppm (t, 3H, J=7.3 Hz). Elemental Analysis for C23H19ClO3: Calculated: C, 72.92; H, 5.05; N, 0.00. Found: C, 72.73; H, 4.99; N, 0.08.

reactant | 1-[5-chloro-2-(6-methoxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one | 14.25 mmol, 5.6 g | ClC=1C=CC2=C(C(=C(O2)C2=CC3=CC=C(C=C3C=C2)OC)C(CCCC)=O)C1 | C24H21ClO3
reactant | boron tribromide | 45 mmol, 1M, 45 mL | B(Br)(Br)Br | BBr3
reactant | methanol | CO | CH4O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-Chloro-2-(6-hydroxy-naphthalen-2-yl)-benzofuran-3-yl]-pentan-1-one | ClC=1C=CC2=C(C(=C(O2)C2=CC3=CC=C(C=C3C=C2)O)C(CCCC)=O)C1 | C23H19ClO3
